* ============================================================
* CANDIDATE behavioral LDO model  (subckt: ldo_model, ports: vin vout gnd)
* Instance params: iload (OP current), slew_en (0=linear PSS/HB core),
*   vdd    = supply DC operating point [V] (default 1.05 = characterized nominal);
*            sets the PSRR DC reference AND shifts Vout DC along the characterized
*            dc_linereg curve (clamped to its measured span [0.9,1.3]V)
*   voutdc = direct Vout DC override [V] (0 = use the characterized DC; >0 pins
*            Vout(iload) to this value, small-signal blocks unchanged)
* Fitted to ground-truth by harness/fit_model.py. All linear/passive +
* controlled sources -> PSS/HB-robust (NO laplace_nd). OP-parameterized by iload
* via quadratic-in-ln(iload) interpolation through corners {20u,121u,250u}.
*   Zout = (R_a + sL_a||R_pl) || (R_b+sL_b) || (ESR+1/sCout)  Cout/ESR auto-extracted;
*          R_pl damps the L rise (inf=peak / finite=plateau); branch B (R_b->inf=off)
*          adds a 2nd resonance/roll-off for multi-pole LDOs (engaged only if it helps)
*   PSRR = i_c*Zout, i_c = G0 + sum Gi/(1+s/wi) [real bank] + one signed COMPLEX 2nd-
*          order section (b0+b1 s)/(1+s/(Q w0)+(s/w0)^2): shelf (1 real)=min-phase, 3 real
*          =non-min-phase mag, + complex section = non-min-phase / notch PHASE (V4/V3).
*          LP filter Rs are noiseless VCCS-conductances (no thermal noise from signal path)
*   Noise= DECOUPLED Norton @vout: white + 6 Lorentzian current sections fit to
*          In=Sv/|Zout| -> output PSD = In*|Zout| exactly, independent of Zout synthesis
* ============================================================
.subckt ldo_model vin vout gnd iload=121u slew_en=0 vdd=1.05 voutdc=0
.param ic = {min(max(iload,20u),250u)}
.param u  = {ln(ic)}
.param VREG121 = 9.013054e-01    $ nominal-corner Vreg (DC-curve table reference)
.param R_a = {min(max(exp((1.506227e-01)*u*u + (2.273276e+00)*u + (1.140070e+01)),1.822092e+01),8.497687e+01)}
.param L_a = {min(max(exp((1.395687e-01)*u*u + (2.055172e+00)*u + (-3.258441e+00)),2.236480e-05),1.061149e-04)}
.param R_pl = {min(max(exp((1.140626e+00)*u*u + (1.661631e+01)*u + (6.697768e+01)),2.041229e+03),1.005000e+09)}
.param R_b = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param L_b = {min(max(exp((6.069877e-16)*u*u + (6.085391e-15)*u + (-2.763102e+01)),9.950249e-13),1.005000e-12)}
.param G0 = {min(max((1.993780e-04)*u*u + (4.744158e-03)*u + (2.850519e-02),5.033774e-04),2.884162e-03)}
.param G1 = {min(max((4.167266e-05)*u*u + (1.647382e-04)*u + (-3.578400e-03),-2.086010e-03),-4.743334e-04)}
.param w1 = {min(max(exp((7.868666e-03)*u*u + (1.532555e-01)*u + (1.433845e+01)),7.991430e+05),8.171849e+05)}
.param G2 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param w2 = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param G3 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param w3 = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param pcb0 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param pcb1 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param pcw0 = {min(max(exp((4.717895e-16)*u*u + (1.054077e-14)*u + (1.219951e+01)),1.977032e+05),1.996852e+05)}
.param pcq = {min(max(exp((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00)),9.950249e-01),1.005000e+00)}
.param gnw = {min(max(exp((-3.967622e-02)*u*u + (-6.279714e-01)*u + (-1.086248e+01)),1.636534e-04),2.297664e-04)}
.param gn1 = {min(max(exp((-1.542956e-01)*u*u + (-2.347786e+00)*u + (-8.454336e+00)),3.263405e-01),1.505489e+00)}
.param gn2 = {min(max(exp((-1.535823e-01)*u*u + (-2.332355e+00)*u + (-9.733038e+00)),8.357820e-02),3.873206e-01)}
.param gn3 = {min(max(exp((-1.564960e-01)*u*u + (-2.395177e+00)*u + (-1.128877e+01)),2.474612e-02),1.126326e-01)}
.param gn4 = {min(max(exp((-1.513514e-01)*u*u + (-2.284122e+00)*u + (-1.140439e+01)),1.210633e-02),5.690156e-02)}
.param gn5 = {min(max(exp((4.704320e-01)*u*u + (9.180485e+00)*u + (3.345361e+01)),1.534668e-05),3.286242e-05)}
.param gn6 = {min(max(exp((-3.853237e-01)*u*u + (-5.945522e+00)*u + (-3.692742e+01)),2.031106e-08),7.398032e-07)}
.param vreg = {min(max((1.324403e-04)*u*u + (1.155523e-03)*u + (9.009531e-01),9.004625e-01),9.039725e-01)}
* ---- R3-L1: settable supply / output DC (defaults reproduce the characterized DC) ----
.param vddc = {min(max(vdd,9.000000e-01),1.300000e+00)}    $ vdd clamped to the dc_linereg span
.param lrsh = {(-9.641010e+00)*vddc*vddc*vddc*vddc + (4.378899e+01)*vddc*vddc*vddc + (-7.433767e+01)*vddc*vddc + (5.590457e+01)*vddc + (-1.481593e+01) - (8.991185e-01)}    $ DC line-reg shift vs characterized nominal
.param vregeff = {vreg + lrsh + ((voutdc > 0) ? (voutdc - (vreg + lrsh - R_a*ic)) : 0)}
.param COUT=9.982912e-10 ESR=5.000098e-01    $ auto-extracted physical output cap / ESR
.param Cps=1p Rp1={1/(w1*Cps)} Rp2={1/(w2*Cps)} Rp3={1/(w3*Cps)}
* complex PSRR section: a1=1/(Q.w0), a2=1/w0^2 ; series R-L-C w/ Cpc fixed -> Rpc,Lpc
.param Cpc=1p pca1={1/(pcq*pcw0)} pca2={1/(pcw0*pcw0)}
.param Rpc={pca1/Cpc} Lpc={pca2/Cpc} gqb1={pcb1/pca1}
*
* ---- DC operating point: regulated Vreg (constant per instance; vregeff adds the
*      R3-L1 vdd line-reg shift / voutdc override). AC vin->vout coupling is handled
*      ENTIRELY by the PSRR path below (small-signal-consistent: its DC limit
*      g_lf*R_a = the measured PSRR LF). A broadband line-reg term here would
*      create a parasitic flat PSRR floor, so it is intentionally omitted.
Breg vreg gnd V = {vregeff}
*
* ---- Zout: branch A (R_a + L_a) || branch C (ESR+Cout) || branch B (opt) ----
La   vout nA  {L_a}
Rpl  vout nA  {R_pl}            $ damping across L_a (R_pl->inf = peak; finite = plateau)
* branch-A conductance: linear R_a (slew_en=0, PSS/HB) OR nonlinear DC-curve w/
* current-limit+dropout (slew_en=1). La in series stays -> resonance + di/dt slew.
Bra  vreg nA I = {(slew_en > 0.5) ? pwl(V(vreg,nA)-(vregeff-VREG121),-5.196963e-03,1.000000e-06,-1.661696e-03,1.300000e-05,-5.728670e-04,2.500000e-05,1.406800e-04,3.700000e-05,6.903910e-04,4.900000e-05,1.147940e-03,6.100000e-05,1.546471e-03,7.300000e-05,1.904110e-03,8.500000e-05,2.231891e-03,9.700000e-05,2.537058e-03,1.090000e-04,2.824640e-03,1.210000e-04,3.098281e-03,1.330000e-04,3.360711e-03,1.450000e-04,3.614031e-03,1.570000e-04,3.859896e-03,1.690000e-04,4.099631e-03,1.810000e-04,4.334315e-03,1.930000e-04,4.564833e-03,2.050000e-04,4.791925e-03,2.170000e-04,5.016207e-03,2.290000e-04,5.238205e-03,2.410000e-04,5.458364e-03,2.530000e-04,5.677064e-03,2.650000e-04,5.894636e-03,2.770000e-04,6.111365e-03,2.890000e-04,6.327497e-03,3.010000e-04,6.543252e-03,3.130000e-04,6.758818e-03,3.250000e-04,6.974366e-03,3.370000e-04,7.190045e-03,3.490000e-04,7.405989e-03,3.610000e-04,7.622319e-03,3.730000e-04,7.839144e-03,3.850000e-04,8.056564e-03,3.970000e-04,8.274668e-03,4.090000e-04,8.493543e-03,4.210000e-04,8.713267e-03,4.330000e-04,8.933914e-03,4.450000e-04,9.155556e-03,4.570000e-04,9.378261e-03,4.690000e-04,9.602097e-03,4.810000e-04,9.827130e-03,4.930000e-04,9.976152e-03,5.010000e-04,1.035538e-02,5.210000e-04,1.073856e-02,5.410000e-04,1.112602e-02,5.610000e-04,1.151813e-02,5.810000e-04,1.191531e-02,6.010000e-04,1.231802e-02,6.210000e-04,1.272682e-02,6.410000e-04,1.314236e-02,6.610000e-04,1.356544e-02,6.810000e-04,1.399701e-02,7.010000e-04,1.443826e-02,7.210000e-04,1.489070e-02,7.410000e-04,1.535621e-02,7.610000e-04,1.583726e-02,7.810000e-04,1.633708e-02,8.010000e-04,1.685997e-02,8.210000e-04,1.741172e-02,8.410000e-04,1.800024e-02,8.610000e-04,1.863636e-02,8.810000e-04,1.933488e-02,9.010000e-04,2.011562e-02,9.210000e-04,2.100400e-02,9.410000e-04,2.203013e-02,9.610000e-04,2.322492e-02,9.810000e-04,2.461317e-02,1.001000e-03,2.620626e-02,1.021000e-03,2.799936e-02,1.041000e-03,2.997514e-02,1.061000e-03,3.211040e-02,1.081000e-03,3.438144e-02,1.101000e-03,3.676694e-02,1.121000e-03,3.924883e-02,1.141000e-03,4.181228e-02,1.161000e-03,4.444528e-02,1.181000e-03,4.713812e-02,1.201000e-03,4.988295e-02,1.221000e-03,5.267337e-02,1.241000e-03,5.550416e-02,1.261000e-03,5.837102e-02,1.281000e-03,6.127037e-02,1.301000e-03,6.419922e-02,1.321000e-03,6.715504e-02,1.341000e-03,7.013571e-02,1.361000e-03,7.313940e-02,1.381000e-03,7.616453e-02,1.401000e-03,7.920976e-02,1.421000e-03,8.227391e-02,1.441000e-03,8.535594e-02,1.461000e-03,8.845497e-02,1.481000e-03,9.157019e-02,1.501000e-03,9.470090e-02,1.521000e-03,9.784649e-02,1.541000e-03,1.010064e-01,1.561000e-03,1.041801e-01,1.581000e-03,1.073672e-01,1.601000e-03,1.105672e-01,1.621000e-03,1.137799e-01,1.641000e-03,1.170048e-01,1.661000e-03,1.202418e-01,1.681000e-03,1.234905e-01,1.701000e-03,1.267506e-01,1.721000e-03,1.300220e-01,1.741000e-03,1.333045e-01,1.761000e-03,1.365979e-01,1.781000e-03,1.399021e-01,1.801000e-03,1.432168e-01,1.821000e-03,1.465420e-01,1.841000e-03,1.498775e-01,1.861000e-03,1.532233e-01,1.881000e-03,1.565792e-01,1.901000e-03,1.599452e-01,1.921000e-03,1.633211e-01,1.941000e-03,1.667070e-01,1.961000e-03,1.701028e-01,1.981000e-03,1.735084e-01,2.001000e-03,1.769238e-01,2.021000e-03,1.803490e-01,2.041000e-03,1.837839e-01,2.061000e-03,1.872286e-01,2.081000e-03,1.906831e-01,2.101000e-03,1.941473e-01,2.121000e-03,1.976214e-01,2.141000e-03,2.011052e-01,2.161000e-03,2.045990e-01,2.181000e-03,2.081026e-01,2.201000e-03,2.116162e-01,2.221000e-03,2.151399e-01,2.241000e-03,2.186737e-01,2.261000e-03,2.222178e-01,2.281000e-03,2.257722e-01,2.301000e-03,2.293372e-01,2.321000e-03,2.329128e-01,2.341000e-03,2.364991e-01,2.361000e-03,2.400965e-01,2.381000e-03,2.437051e-01,2.401000e-03,2.473251e-01,2.421000e-03,2.509569e-01,2.441000e-03,2.546006e-01,2.461000e-03,2.582567e-01,2.481000e-03,2.619254e-01,2.501000e-03,2.656072e-01,2.521000e-03,2.693025e-01,2.541000e-03,2.730119e-01,2.561000e-03,2.767357e-01,2.581000e-03,2.804746e-01,2.601000e-03,2.842293e-01,2.621000e-03,2.880005e-01,2.641000e-03,2.917889e-01,2.661000e-03,2.955953e-01,2.681000e-03,2.994208e-01,2.701000e-03,3.032662e-01,2.721000e-03,3.071327e-01,2.741000e-03,3.110215e-01,2.761000e-03,3.149337e-01,2.781000e-03,3.188708e-01,2.801000e-03,3.228342e-01,2.821000e-03,3.268254e-01,2.841000e-03,3.308462e-01,2.861000e-03,3.348982e-01,2.881000e-03,3.389834e-01,2.901000e-03,3.431036e-01,2.921000e-03,3.472612e-01,2.941000e-03,3.514582e-01,2.961000e-03,3.556970e-01,2.981000e-03,3.599802e-01,3.001000e-03,3.643104e-01,3.021000e-03,3.686905e-01,3.041000e-03,3.731234e-01,3.061000e-03,3.776124e-01,3.081000e-03,3.821610e-01,3.101000e-03,3.867728e-01,3.121000e-03,3.914519e-01,3.141000e-03,3.962025e-01,3.161000e-03,4.010293e-01,3.181000e-03,4.059375e-01,3.201000e-03,4.109325e-01,3.221000e-03,4.160203e-01,3.241000e-03,4.212078e-01,3.261000e-03,4.265021e-01,3.281000e-03,4.319113e-01,3.301000e-03,4.374445e-01,3.321000e-03,4.431114e-01,3.341000e-03,4.489232e-01,3.361000e-03,4.548920e-01,3.381000e-03,4.610317e-01,3.401000e-03,4.674577e-01,3.421000e-03,4.739964e-01,3.441000e-03,4.807588e-01,3.461000e-03,4.877667e-01,3.481000e-03,4.950441e-01,3.501000e-03,5.026180e-01,3.521000e-03,5.105186e-01,3.541000e-03,5.187788e-01,3.561000e-03,5.274351e-01,3.581000e-03,5.365265e-01,3.601000e-03,5.460950e-01,3.621000e-03,5.561841e-01,3.641000e-03,5.668379e-01,3.661000e-03,5.780994e-01,3.681000e-03,5.900081e-01,3.701000e-03,6.025977e-01,3.721000e-03,6.158939e-01,3.741000e-03,6.299118e-01,3.761000e-03,6.446551e-01,3.781000e-03,6.601162e-01,3.801000e-03,6.762770e-01,3.821000e-03,6.931120e-01,3.841000e-03,7.105901e-01,3.861000e-03,7.286780e-01,3.881000e-03,7.473425e-01,3.901000e-03,7.665518e-01,3.921000e-03,7.862766e-01,3.941000e-03,8.064904e-01,3.961000e-03,8.271697e-01,3.981000e-03,8.482931e-01,4.001000e-03,8.698414e-01,4.021000e-03,8.917968e-01,4.041000e-03,9.141427e-01,4.061000e-03,9.368632e-01,4.081000e-03,9.599430e-01,4.101000e-03,9.833677e-01,4.121000e-03,1.007123e+00,4.141000e-03,1.031195e+00,4.161000e-03,1.055422e+00,4.181000e-03,1.080092e+00,4.201000e-03,1.105041e+00,4.221000e-03,1.130254e+00,4.241000e-03,1.155718e+00,4.261000e-03,1.181422e+00,4.281000e-03,1.207352e+00,4.301000e-03,1.233498e+00,4.321000e-03,1.259848e+00,4.341000e-03,1.286391e+00,4.361000e-03,1.313117e+00,4.381000e-03,1.340015e+00,4.401000e-03,1.367077e+00,4.421000e-03,1.394292e+00,4.441000e-03,1.421651e+00,4.461000e-03,1.449146e+00,4.481000e-03,1.476768e+00,4.501000e-03,1.504510e+00,4.521000e-03,1.532364e+00,4.541000e-03,1.560323e+00,4.561000e-03,1.588379e+00,4.581000e-03,1.616527e+00,4.601000e-03,1.644759e+00,4.621000e-03,1.673071e+00,4.641000e-03,1.701456e+00,4.661000e-03,1.729908e+00,4.681000e-03,1.758424e+00,4.701000e-03,1.786997e+00,4.721000e-03,1.815623e+00,4.741000e-03,1.844298e+00,4.761000e-03,1.873017e+00,4.781000e-03,1.901777e+00,4.801000e-03,1.930573e+00,4.821000e-03,1.959403e+00,4.841000e-03,1.988261e+00,4.861000e-03,2.017146e+00,4.881000e-03,2.046055e+00,4.901000e-03,2.074983e+00,4.921000e-03,2.103929e+00,4.941000e-03,2.132890e+00,4.961000e-03,2.161863e+00,4.981000e-03,2.190846e+00,5.001000e-03,2.219836e+00,5.021000e-03,2.248832e+00,5.041000e-03,2.277831e+00,5.061000e-03,2.306831e+00,5.081000e-03,2.335831e+00,5.101000e-03,2.364829e+00,5.121000e-03,2.393823e+00,5.141000e-03,2.422811e+00,5.161000e-03,2.451792e+00,5.181000e-03,2.480765e+00,5.201000e-03,2.509728e+00,5.221000e-03,2.538680e+00,5.241000e-03,2.567619e+00,5.261000e-03,2.596545e+00,5.281000e-03,2.625457e+00,5.301000e-03,2.654353e+00,5.321000e-03,2.683232e+00,5.341000e-03,2.712093e+00,5.361000e-03,2.740936e+00,5.381000e-03,2.769759e+00,5.401000e-03,2.798562e+00,5.421000e-03,2.827345e+00,5.441000e-03,2.856105e+00,5.461000e-03,2.884843e+00,5.481000e-03,2.913558e+00,5.501000e-03,2.942249e+00,5.521000e-03,2.970916e+00,5.541000e-03,2.999559e+00,5.561000e-03,3.028175e+00,5.581000e-03,3.056766e+00,5.601000e-03,3.085330e+00,5.621000e-03,3.113868e+00,5.641000e-03,3.142378e+00,5.661000e-03,3.170861e+00,5.681000e-03,3.199316e+00,5.701000e-03,3.227742e+00,5.721000e-03,3.256139e+00,5.741000e-03,3.284507e+00,5.761000e-03,3.312846e+00,5.781000e-03,3.341155e+00,5.801000e-03,3.369434e+00,5.821000e-03,3.397683e+00,5.841000e-03,3.425902e+00,5.861000e-03,3.454089e+00,5.881000e-03,3.482246e+00,5.901000e-03,3.510372e+00,5.921000e-03,3.538466e+00,5.941000e-03,3.566529e+00,5.961000e-03,3.594561e+00,5.981000e-03) : V(vreg,nA)/R_a}
Cout vout nC  {COUT}
Resr nC  vreg {ESR}
* ---- optional branch B: 2nd parallel R-L for multi-pole Zout (R_b->inf = off) ----
Lb   vout nbb {L_b}
Rbb  nbb  vreg {R_b}
*
* ---- intrinsic output noise: DECOUPLED Norton current @vout (white + 6 Lorentzians).
* Each section = fixed R||C thermal noise (sets corner) x VCCS gm (sets amplitude),
* injected at vout so output PSD = In(f)*|Zout(f)|. Decoupled from the Zout branches
* above -> immune to branch-B re-shaping; fit to In=Sv/|Zout| across load corners.
Rnw  nw gnd 1.000000e+06
Gnw  gnd vout nw gnd {gnw}      $ white floor
Rn1  nk1 gnd 1.000000e+06
Cn1  nk1 gnd 9.229884e-09        $ corner 17.24 Hz
Gn1  gnd vout nk1 gnd {gn1}
Rn2  nk2 gnd 1.000000e+06
Cn2  nk2 gnd 7.213535e-10        $ corner 220.6 Hz
Gn2  gnd vout nk2 gnd {gn2}
Rn3  nk3 gnd 1.000000e+06
Cn3  nk3 gnd 5.735589e-11        $ corner 2775 Hz
Gn3  gnd vout nk3 gnd {gn3}
Rn4  nk4 gnd 1.000000e+06
Cn4  nk4 gnd 1.551179e-12        $ corner 1.026e+05 Hz
Gn4  gnd vout nk4 gnd {gn4}
Rn5  nk5 gnd 1.000000e+06
Cn5  nk5 gnd 7.755929e-13        $ corner 2.052e+05 Hz
Gn5  gnd vout nk5 gnd {gn5}
Rn6  nk6 gnd 1.000000e+06
Cn6  nk6 gnd 3.375437e-14        $ corner 4.715e+06 Hz
Gn6  gnd vout nk6 gnd {gn6}
*
* ---- PSRR path: i_c = G0 + sum_i Gi*LP_i(vin-vdd), injected into vout (x Zout).
*      Bank of signed first-order real-pole sections (+ one complex section below).
*      The LP filter resistors are realized as NOISELESS VCCS-conductances (Grp*),
*      NOT physical R: the PSRR coupling is a signal-transfer path, so its filter
*      elements must contribute NO thermal noise (else they corrupt the decoupled
*      Norton noise block). This matches the Verilog-A mirror (which is already
*      noiseless) and is I-V identical to a resistor in .op/.dc/.ac/.tran. ----
Vrf  vrf gnd DC {vdd}              $ supply DC reference (settable; default = fit vin)
Gd   gnd vout vin vrf {G0}         $ feedthrough  G0*(vin-vdd)
Grp1 vin np1 vin np1 {1/Rp1}   $ noiseless conductance (= 1/Rp1)
Cp1  np1 vrf {Cps}             $ np1 = LP1(vin), DC-referenced to vdd
Gs1  gnd vout np1 vrf {G1}         $ G1*(LP1(vin)-vdd)
Grp2 vin np2 vin np2 {1/Rp2}
Cp2  np2 vrf {Cps}
Gs2  gnd vout np2 vrf {G2}         $ G2*(LP2(vin)-vdd)  (0 if min-phase)
Grp3 vin np3 vin np3 {1/Rp3}
Cp3  np3 vrf {Cps}
Gs3  gnd vout np3 vrf {G3}         $ G3*(LP3(vin)-vdd)  (0 if min-phase)
* ---- PSRR complex-conjugate 2nd-order section: carries non-min-phase / notch
*      PHASE that the real shelf cannot. Series Rpc-Lpc-Cpc lowpass state x=V(ncs2,vrf);
*      Gqb0 reads V_C=x, Gqb1 reads V_R=a1*dx/dt -> i_c += (pcb0+pcb1 s)/(1+a1 s+a2 s^2).
*      Inert when pcb0=pcb1=0 (min-phase variants). Rpc is a NOISELESS VCCS-conductance
*      (Grpc); Lpc/Cpc are noiseless -> the whole section adds no thermal noise. No laplace.
Grpc vin  ncs1 vin ncs1 {1/Rpc}    $ noiseless conductance (= 1/Rpc)
Lpc  ncs1 ncs2 {Lpc}
Cpc  ncs2 vrf  {Cpc}
Gqb0 gnd vout ncs2 vrf {pcb0}      $ inject b0*x
Gqb1 gnd vout vin  ncs1 {gqb1}     $ inject b1*dx/dt = (b1/a1)*V_R

.ends ldo_model

